US07098212B2
(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenoxy)-acetonitrile
To a solution of 2-(4-chloro-2-hydroxy-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone (0.10 g, 0.24 mmol), and cesium carbonate (0.12 g, 0.38 mmol) in dioxane (1 mL) was added bromoacetonitrile (0.034 g, 0.28 mmol). The resulting mixture was stirred at ambient temperature overnight. The reaction was diluted with ethyl acetate and washed with water. The organic layer was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated in vacuo to give the title compound (0.11 g).

reactant | 2-(4-chloro-2-hydroxy-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone | 0.24 mmol, 0.10 g | ClC1=CC(=C(OCC(=O)N2[C@@H](CN([C@H](C2)C)CC2=CC=C(C=C2)F)C)C=C1)O | C21H24ClFN2O3
reactant | cesium carbonate | 0.38 mmol, 0.12 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromoacetonitrile | 0.28 mmol, 0.034 g | BrCC#N | C2H2BrN
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenoxy)-acetonitrile | 0.11 g | ClC=1C=CC(=C(OCC#N)C1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C23H25ClFN3O3
